US05670680
Fluorene (100 g, 0.6 mole) was dissolved in a mixture of 600 ml tetrahydrofuran (THF) and 600 ml ethylenediamine (1:1 by volume). The fluorene solution was degassed with nitrogen and cooled to 0° C. 4.25 equivalents of lithium metal (17.7 g, 2.55 mole) were added in 2 g portions every 10 minutes and the reaction temperature was maintained at 10° C. The reaction mixture was warmed to room temperature. The reaction mixture was then quenched with degassed water; the separated organic phase was extracted with a mixture of aqueous NaCl (300 ml) and cyclohexane (500 ml). The organic phase was washed with aqueous NaCl (300 ml), the water phase was removed, and the cyclohexane was stripped from the solution leaving 95 g (0.56 moles) of tetrahydrofluorene (93% yield). 9-trimethylsilyl-1,2,3,4-tetrahydro-9H-fluorene. 1,2,3,4-tetrahydro-9H-fluorene (50 grams (g), 0.294 mol) was dissolved in 1 liter (L) of anhydrous THF and cooled to -78 ° C. To this solution 123 ml (0.307 mol) of n-BuLi (2.5M solution in hexane) was added via syringe within 25 minutes (min). The reaction mixture was stirred for few minutes at -78° C. until the lithium salt precipitated from the solution. After precipitation, the cold bath was removed and the reaction mixture was and stirred for 2 hours (hr) at room temperature. The flask was cooled to -78° C. and 40 ml (34.24 g, 0.315 mol) of trimethylsilyl chloride (TMSCI) was added through syringe within 1 hr. After addition was completed the reaction mixture was stirred for 3 hr at -78 ° C. and then it was slowly warmed up to room temperature and stirred overnight. THF solvent was removed in vacuum and the residue was extracted with 150 ml of hexane. The hexane solution was filtered to another flask and hexane was removed leaving 70.39 g of 9-trimethylsilyl-1,2,3,4-tetrahydro-9H-fluorene (about 95% pure). Yield 99%.

reactant | Fluorene | 0.6 mole, 100 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | lithium | 2.55 mole, 17.7 g, 4.25 equivalents | [Li] | Li
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | ethylenediamine | 600 ml | C(CN)N | C2H8N2
product | tetrahydrofluorene | 0.56 moles, 95 g, 93% yield | C1CCCC=2C3=CC=CC=C3CC12 | C13H14
